US06413938B1
5,6-Dichloro-2-ethenyl-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl) 1H-benzimidazole
2-Bromo-5,6-dichloro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole (0.22 g, 0.47 mmol), vinyltributyltin (Aldrich, 0.5 ml, 2.4 mmol), tetrakis(triphenylphosphine)palladium(0) (Aldrich, 0.054 g, 0.047 mmol) and DMF (Aldrich Sure Seal, 5 mL) were combined and flushed with argon for 30 min. The solution was warmed to 90° C. After 1 h the DMF was distilled off under reduced pressure. The residue was taken up in ethyl acetate (50 mL) and extracted with 20 mL of saturated NH4Cl. The organic layer was dried with magnesium sulfate (anhyd), filtered, and evaporated. The crude residue was purified on a silica gel column (2.5×14 cm, 230-400 mesh) with 1:40 methanol:dichloromethane to give the title compound (0.1 g, 0.24 mmol, 51%); MS (ES+): m/z (rel. intensity) 436 (100, M++Na); 1H NMR (DMSO-d6) δ8.06 (s,1H, ArH), 7.97 (s, 1H, ArH), 7.10 (dd, 1H, CH, J=11 Hz, J=16.8 Hz), 6.50 (dd, 1H, CH, J=1.8 Hz, J=16.8 Hz), 6.32 (d, 1H, CH, J=6.9 Hz), 5.85 (dd, 1H, CH, J=1.8 Hz, J=11 Hz), 5.51 (apparent triplet, 1H, CH, J=7.0 Hz), 5.27 (apparent triplet, 1H, CH, J=6.5 Hz), 4.27-4.18 (m, CH, 1H), 2.15 (s, 3H, OAc), 1.99 (s, 3H, OAc), 1.53 (d, 3H, CH3, J=6.3 Hz).

reactant | 2-Bromo-5,6-dichloro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole | 0.47 mmol, 0.22 g | BrC1=NC2=C(N1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C)C=C(C(=C2)Cl)Cl | C16H15BrCl2N2O5
reactant | vinyltributyltin | 2.4 mmol, 0.5 ml | C(=C)[Sn](CCCC)(CCCC)CCCC
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.047 mmol, 0.054 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5,6-Dichloro-2-ethenyl-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl) 1H-benzimidazole | 0.24 mmol, 0.1 g, 51% | ClC1=CC2=C(N(C(=N2)C=C)[C@H]2[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)C)C=C1Cl | C18H18Cl2N2O5
